US07795249B2
To a solution of 3-bromo-5-{[(4-methoxybenzyl)oxy]methyl}pyridine (4.4 mmol) in methyl t-butyl ether (20 mL) was added n-BuLi (2.5M in hexane, 1.96 mL) dropwise at −78° C. The reaction mixture was allowed to stir for 15 min and then N-methoxy-N-methylacetamide (6.7 mmol) in methyl t-butyl ether (3 mL) was added dropwise. The reaction mixture was allowed to stir for 30 min at −78° C. and then diluted with water and allowed to warm to rt. After stirring for 30 min, the phases were separated and the aqueous solution was extracted with EtOAc. The organic solutions were combined, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give 1-(5-{[(4-methoxybenzyl)oxy]methyl}pyridin-3-yl)ethanone (3.1 mmol, 70%) as a white solid. LCMS: (FA) ES+ 272.1.

reactant | 3-bromo-5-{[(4-methoxybenzyl)oxy]methyl}pyridine | 4.4 mmol | BrC=1C=NC=C(C1)COCC1=CC=C(C=C1)OC | C14H14BrNO2
reactant | n-BuLi | 2.5M, 1.96 mL | [Li]CCCC
reactant | N-methoxy-N-methylacetamide | 6.7 mmol | CON(C(C)=O)C | C4H9NO2
solvent | methyl t-butyl ether | 20 mL | C(C)(C)(C)OC | C5H12O
solvent | methyl t-butyl ether | 3 mL | C(C)(C)(C)OC | C5H12O
solvent | water | O | H2O
product | 1-(5-{[(4-methoxybenzyl)oxy]methyl}pyridin-3-yl)ethanone | 3.1 mmol, 70% | COC1=CC=C(COCC=2C=C(C=NC2)C(C)=O)C=C1 | C16H17NO3
